US09278936B2
Amorphous 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea (200 mg, 0.359 mmol, 1.0 equivalent) was added to a round bottom flask that had been flame dried under a nitrogen atmosphere. THF (3.0 mL) was added and the mixture was stirred at ambient temperature until the solids were dissolved. HCl in 1,4-dioxane (4M, 135 μL, 0.54 mmol, 1.5 equivalents) was added dropwise with rapid stirring, and the mixture was stirred overnight at ambient temperature. The solids were isolated by vacuum filtration. The solids were washed with methyl tert-butyl ether (MTBE) and then with ether. The solids were dried under vacuum at 40° C. overnight to yield 150 mg 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride Form A (0.252 mmol, 70% theoretical yield). Methods used to characterize this material are described in Examples 1-C and 1-D.

reactant | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea | 0.359 mmol, 200 mg, 1.0 equivalent | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 0.54 mmol, 4M, 135 μL, 1.5 equivalents | O1CCOCC1 | C4H8O2
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride | 150 mg | Cl.C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | InChI=1S/C31H33FN6O3.ClH/c1-20-5-8-24(9-6-20)38-29(17-28(36-38)31(2,3)4)35-30(40)33-18-22-15-23(32)7-12-27(22)41-25-10-11-26-21(16-25)19-34-37(26)13-14-39;/h5-12,15-17,19,39H,13-14,18H2,1-4H3,(H2,33,35,40);1H
